data/mechanisms/records/IMS8-EQ8.2c.json
{"mechanism_id": "IMS8-EQ8.2c", "species": [{"species_id": "hexan_2_one_molecular_ion", "mapped_smiles": "[CH3:1][CH2:2][CH2:3][CH2:4][C:5](=[O+:6])[CH3:7]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "pentanoyl_acylium_cation", "mapped_smiles": "[CH3:1][CH2:2][CH2:3][CH2:4][C:5]#[O+:6]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:7]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hexan_2_one_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["pentanoyl_acylium_cation", "methyl_radical"]}], "steps": [{"step_id": "step_alpha_0_7", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 7]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 7]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_c", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_0_7", "support_type": "textbook_proposed", "locator": {"page": 138, "equation": "8.2", "figure": null, "panel": null, "section": "Eq. 8.2, arrow 0.7, alpha (loss of the acetyl methyl)"}, "confidence": 0.85, "curator_note": "Alpha cleavage on the acetyl side: loss of the methyl radical (.CH3, C7) with formation of the C5#O6+ acylium, giving the C5H9O+ pentanoyl/valeroyl cation C4H9-C#O+ (m/z 85, 2%). Book draws 0 electron-pushing arcs: Eq. 8.2 is a thermochemical fragmentation map (log k printed above each reaction arrow, heats of formation printed below each species), not a curved-arrow figure. All electron moves here are curator-inferred from the mechanism-type label printed under the reaction arrow; none is drawn on the page. Canonical THREE fishhooks: move<1> O6 odd electron into the forming C5-O6 pi bond, move<2> one C5-C7 electron into that pi bond, move<3> the other C5-C7 electron onto C7 (departing methyl radical)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_85", "species_id": "pentanoyl_acylium_cation", "step_id": "step_alpha_0_7", "observed_mz": 85.0648, "relative_intensity": 0.02, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
